US07727979B2
N-(5-hexyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine-2-yl)-guanidine
1-bromohexane (0.11 mmol) is added to a suspension of N-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine-2-yl)-guanidine (0.1 mmol) and caesium carbonate (0.22 mmol) in dimethylformamide (0.3 ml) and the reaction mixture is stirred overnight at room temperature. After adding 2M caustic soda solution (1 ml) the mixture is extracted with ethyl acetate, the combined organic phases are dried over sodium sulphate and then concentrated by evaporation, the title compound being obtained in pure form.

reactant | 1-bromohexane | 0.11 mmol | BrCCCCCC | C6H13Br
reactant | N-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine-2-yl)-guanidine | 0.1 mmol | N1=C(SC=2CNCCC21)NC(=N)N | C7H11N5S
reactant | caesium carbonate | 0.22 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | caustic soda | 2M, 1 ml | [OH-].[Na+]
solvent | dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
product | N-(5-hexyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine-2-yl)-guanidine | C(CCCCC)N1CC2=C(CC1)N=C(S2)NC(=N)N | C13H23N5S
